US06437132B2
Production of 3-Bromomethyl-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-2-(4-nitrophenyl)-4-oxothieno[2,3-b]pyridine
3-Bromomethyl-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-4-oxo-2-phenylthieno[2,3-b]pyridine (40 g) was dissolved in methanesulfonic acid (200 ml) with cooling at 13 to 15° C. and then treated dropwise with a solution of sodium nitrate (6.59 g) in methanesulfonic acid (100 ml) over a period of 1 hour. The mixture was stirred as it was for 2.5 hours, and then poured into a cool water (2800 ml), and the crystal precipitated was recovered by a filtration, washed with water until the pH of the wash became 5 to 6, and then dried in vacuo at 50° C. for 24 hours. The rude crystal thus obtained was suspended in ethyl acetate (300 ml), and the reaction mixture was stirred at 50° C. for 1 hour and then with cooling on ice for 1 hour, and the crystal was recovered by a filtration, washed with a cooled ethyl acetate (100 ml), dried in vacuo at 40° C. for 5 hours to obtain the title compound (32.4 g, 74.5%).

reactant | 3-Bromomethyl-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-4-oxo-2-phenylthieno[2,3-b]pyridine | 40 g | BrCC1=C(SC=2N(C=C(C(C21)=O)C(C(C)C)=O)CC2=C(C=CC=C2F)F)C2=CC=CC=C2 | C25H20BrF2NO2S
reactant | sodium nitrate | 6.59 g | [N+](=O)([O-])[O-].[Na+]
reactant | water | 2800 ml | O | H2O
solvent | methanesulfonic acid | 200 ml | CS(=O)(=O)O | CH4O3S
solvent | methanesulfonic acid | 100 ml | CS(=O)(=O)O | CH4O3S
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-Bromomethyl-7-(2,6-difluorobenzyl)-4,7-dihydro-5-isobutyryl-2-(4-nitrophenyl)-4-oxothieno[2,3-b]pyridine | 32.4 g, 74.5% | BrCC1=C(SC=2N(C=C(C(C21)=O)C(C(C)C)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)[N+](=O)[O-] | C25H19BrF2N2O4S
